US08133897B2
2-(4-phenyl-1H-imidazol-2-ylmethylsulfanyl)-[1,2,4]triazolo[1,5-a]pyridine
A solution of imidazole-1-carbothioic acid (2-imino-2H-pyridin-1-yl)-amide (18 mg, 0.080 mmol) in DMF (0.5 mL) was added to 2-chloromethyl-5-phenyl-1H-imidazole (23 mg, 0.12 mmol) and the mixture was heated at 100° C. overnight. Volatiles were evaporated and the residue was purified by preparative LC-MS to yield the title compound. LC-MS: m/z=308.2 (MH+), tR=0.67 min, method A.

reactant | imidazole-1-carbothioic acid (2-imino-2H-pyridin-1-yl)-amide | 0.080 mmol, 18 mg | N=C1N(C=CC=C1)NC(=S)N1C=NC=C1 | C9H9N5S
reactant | 2-chloromethyl-5-phenyl-1H-imidazole | 0.12 mmol, 23 mg | ClCC=1NC(=CN1)C1=CC=CC=C1 | C10H9ClN2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-phenyl-1H-imidazol-2-ylmethylsulfanyl)-[1,2,4]triazolo[1,5-a]pyridine | C1(=CC=CC=C1)C=1N=C(NC1)CSC1=NN2C(C=CC=C2)=N1 | C16H13N5S
